US07825265B2
1-Methoxy-4-(1-phenyl-cyclohexyl)-benzene, Procedure A
A mixture of AuCl3 (7.6 mg, 0.025 mmol) and AgOTf (19.3 mg, 0.075 mmol) was stirred in dichloromethane (2 mL) for 30 min. Anisole (54 mg, 0.5 mmol) and 1-Phenyl-1-cyclohexene (158 mg, 1 mmol) were then added sequentially. The resulting mixture was stirred at room temperature overnight. Evaporation of the solvent under reduced pressure gave 130 mg of crude material. Flash chromatography (heptane:ethyl acetate 95:5) afforded 90 mg of a as a colorless oil. Rf=0.33 (heptane:ethyl acetate 95:5). 1H-NMR (400 MHz, CDCl3): 7.27-7.25 (m, 4H), 7.19 (d, 2H, J=8.8 Hz), 7.12 (m, 1H), 6.81 (d, 2H, J=8.8 Hz), 3.77 (s, 3H), 2.30-2.20 (m, 4H), 1.62-1.44 (m, 6H).

reactant | Anisole | 0.5 mmol, 54 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | 1-Phenyl-1-cyclohexene | 1 mmol, 158 mg | C1(=CC=CC=C1)C1=CCCCC1 | C12H14
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | AgOTf | 0.075 mmol, 19.3 mg | C(F)(F)(F)S(=O)(=O)[O-].[Ag+]
product | 1-Methoxy-4-(1-phenyl-cyclohexyl)-benzene | COC1=CC=C(C=C1)C1(CCCCC1)C1=CC=CC=C1 | C19H22O
